US09227971B2
Step 1: Preparation of 3-bromoquinoline-6-carboxylic acid
To a suspension of quinoline-6-carboxylic acid (2.77 g, 16.0 mmol) in CCl4 (20 ml) in a flask wrapped with Al foil was added bromine (987 uL, 19.2 mmol) dropwise. The resulting mixture was stirred at rt for 30 min, then heated under reflux for 30 min. A solution of pyridine (1.55 mL, 19.2 mmol) in CCl4 (4 mL) was added dropwise at refluxing temperature. Then the reaction mixture was heated under reflux for 4 h. The reaction mixture was treated with 3 N NaOH until all the precipitates were dissolved. The aqueous layer was separated and washed with DCM once more, then acidified with 3 N HCl. The resulting orange precipitates were filtered, and washed with H2O, and a small amount of MeOH to afford the titled compound as an off-white solid (3.36 g).

reactant | quinoline-6-carboxylic acid | 16.0 mmol, 2.77 g | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | bromine | 19.2 mmol, 987 uL | BrBr | Br2
reactant | pyridine | 19.2 mmol, 1.55 mL | N1=CC=CC=C1 | C5H5N
reactant | NaOH | 3 N | [OH-].[Na+]
solvent | CCl4 | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 4 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-bromoquinoline-6-carboxylic acid | 3.36 g | BrC=1C=NC2=CC=C(C=C2C1)C(=O)O | C10H6BrNO2
